US08686044B2
Preparation of N-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-4-fluoro-3-nitrobenzamide
According to the method of 1-3 of Example 1, a target compound was prepared from 4-fluoro-3-nitrobenzoyl chloride prepared from 4-fluoro-3-nitrobenzoic acid and thionyl chloride, and 2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)aniline obtained in 1-2 of Example 1.

reactant | 4-fluoro-3-nitrobenzoyl chloride | FC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3ClFNO3
reactant | 4-fluoro-3-nitrobenzoic acid | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)aniline | BrC1=C(N)C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C(F)(F)F | C10H4BrF10N
product | N-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-4-fluoro-3-nitrobenzamide | BrC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C(F)(F)F)NC(C1=CC(=C(C=C1)F)[N+](=O)[O-])=O | C17H6BrF11N2O3
